US07776857B2
A mixture of 4-aminophenol (42 mg, 0.38 mmol), 1-chloro-4-(4-methylpiperazin-1-yl)phthalazine (100 mg, 0.381 mmol), and TFA (29 μl, 0.38 mmol) was heated in 2-butanol (3 mL) in a sealed tube at 90° C. overnight. Next day LC/MS shows completion of reaction. The reaction was cooled and diluted with DCM. Aqueous sodium bicarbonate was added and the organic layer was collected. The aqueous layer was neutralized with 1N HCl and the product was extracted with DCM. The organic layers were combined, dried over sodium sulfate, and concentrated to afford 4-(4-(4-methylpiperazin-1-yl)phthalazin-1-ylamino)phenol as solid brown material. MS [M+H]=336.2. Calc'd for C19H21N5O: 335.4.

reactant | 4-aminophenol | 0.38 mmol, 42 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | 1-chloro-4-(4-methylpiperazin-1-yl)phthalazine | 0.381 mmol, 100 mg | ClC1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C | C13H15ClN4
reactant | TFA | 0.38 mmol, 29 μl | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 2-butanol | 3 mL | CC(CC)O | C4H10O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(4-(4-methylpiperazin-1-yl)phthalazin-1-ylamino)phenol | CN1CCN(CC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)O | C19H21N5O
